US07622496B2
To a solution of BOC-Gly-OH (28.13 g, 0.1606 mol) and 1-hydroxybenzotriazole (0.1686 mol, 25.64 g; contains 11.12 wt % H2O) in THF (1.3 L) was added N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.1686 mol, 32.328 g) (Flask A). The mixture was stirred at ambient temperature for 4 h, then the stirring was stopped and the oily residue was allowed to settle. In a separate flask (Flask B), NaOH (0.1606 mol; 32 mL of 5N solution) was added to a suspension of (2S,4R)-methyl 4-benzamidopyrrolidine-2-carboxylate hydrochloride (0.1606 mol, 45.73 g) in THF (0.52 L) over 15 min. The mixture was stirred at ambient temperature for 10 min, during which time the solids mostly dissolved. The solution of HOBt ester prepared in Flask A was added to Flask B at ambient temperature over 15 min, leaving the oily residue behind. The residue in Flask A was washed with 250 mL of THF, and the THF solution was decanted from the heavy oil and added to the mixture in Flask B. The reaction mixture was stirred at ambient temperature for 40 min. Water (500 mL) was added, and the mixture was concentrated under vacuum to remove THF (˜550 mL residual volume). EtOAc (500 mL) was added, followed by brine (300 mL). The phases were separated and the aqueous phase was extracted with 2×300 mL of EtOAc. The combined organic fraction was washed with 2×250 mL of 1N HCl, 2×250 mL of sat. NaHCO3 solution, and 150 mL of brine, then dried over MgSO4, and concentrated to afford 48.31 g of (2S,4R) methyl-4-benzamido-1-(2-(tert-butoxycarbonylamino)acetyl)pyrrolidine-2-carboxylate as a foamy solid (74% yield). 1H NMR (CDCl3, δ, ppm; for two conformers): 7.81-7.72 (m, 2 H), 7.57-7.39 (m, 3 H), 6.41 (d, J=6 Hz, 0.8 H), 6.25 (d, J=6 Hz, 0.2 H), 5.32 (br. s, 1 H), 4.88-4.74 (m, 1 H), 4.65 (t, J=7 Hz, 1 H), 4.11-3.86 (m, 2 H), 3.83-3.78 (m, 1 H), 3.76 (s, 3 H), 3.69-3.56 (M, 1 H), 2.65-2.3 (m, 2 H), 1.43 (s, 9 H). MS (m/z, positive ESI, for M+Na): 428.

reactant | BOC-Gly-OH | 0.1606 mol, 28.13 g | N(CC(=O)O)C(=O)OC(C)(C)C | C7H13NO4
reactant | 1-hydroxybenzotriazole | 0.1686 mol, 25.64 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.1686 mol, 32.328 g | Cl.CN(CCCN=C=NCC)C
reactant | NaOH | 0.1606 mol, 5N, 32 mL | [OH-].[Na+]
reactant | (2S,4R)-methyl 4-benzamidopyrrolidine-2-carboxylate hydrochloride | 0.1606 mol, 45.73 g | Cl.C(C1=CC=CC=C1)(=O)N[C@@H]1C[C@H](NC1)C(=O)OC
solvent | THF | 1.3 L | C1CCOC1 | C4H8O
solvent | THF | 0.52 L | C1CCOC1 | C4H8O
product | (2S,4R) methyl-4-benzamido-1-(2-(tert-butoxycarbonylamino)acetyl)pyrrolidine-2-carboxylate | 48.31 g, 74% yield | COC(=O)[C@H]1N(C[C@@H](C1)NC(C1=CC=CC=C1)=O)C(CNC(=O)OC(C)(C)C)=O | C20H27N3O6
